US05643959
In a 250 ml. three-necked flask equipped with a magnetic stirrer, thermometer, condenser, and dropping funnel is placed 25.6 g (0.2 mole) of 3,4 difluorotoluene. The liquid is heated to 105° and illuminated as 67 g. (0.42 mole) of bromine is added slowly. The temperature is kept between 105°-110° while the first half of the bromine is added over a period of one hour. The rest of the bromine is added over approximately a 2 hour period and the temperature is raised to 150° and kept there for 5 minutes. The reaction mixture is cooled and transferred to a 1 liter 3-necked flask with a motor driven stirrer and condenser. 120 ml. H2O and 90 g. of calcium carbonate are added, and the mixture is refluxed for 20 hours with good stirring. The reaction mixture is steam distilled until no further oil is collected. The oil is taken up in methylene chloride and dried over MgSO4. Evaporation of the solvent yields 3,4-difluorobenzaldehyde which is used without further purification.

reactant | 3,4 difluorotoluene | 0.2 mole, 25.6 g | FC=1C=C(C=CC1F)C | C7H6F2
reactant | bromine | 0.42 mole | BrBr | Br2
reactant | calcium carbonate | C([O-])([O-])=O.[Ca+2]
solvent | H2O | O | H2O
product | 3,4-difluorobenzaldehyde | FC=1C=C(C=O)C=CC1F | C7H4F2O
